US07829572B2
A mixture of (2-(difluoromethyl)phenyl)methanol (100 mg, 0.632 mmol) and manganese oxide (275 mg, 3.16 mmol) in dichloromethane was stirred at room temperature for twelve hours and then at 45° C. for 1 h. The reaction was filtered through celite and concentrated, to give 2-(difluoromethyl)benzaldehyde as an oil (99 mg). 1H NMR (400 MHz, CDCl3) δ 10.2 (s, 1H), 7.94 (d, 1H), 7.81 (d, 1H), 7.70 (m, 2H), 6.93 (t, 1H).

reactant | (2-(difluoromethyl)phenyl)methanol | 0.632 mmol, 100 mg | FC(C1=C(C=CC=C1)CO)F | C8H8F2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | manganese oxide | 3.16 mmol, 275 mg | [O-2].[Mn+2]
product | 2-(difluoromethyl)benzaldehyde | 99 mg | FC(C1=C(C=O)C=CC=C1)F | C8H6F2O
